US07148249B2
1-acetyl-6-chloro-3-[1-hydroxy-1-(1-methyl-5-benzimidazolyl)methylene]-2-indolinone
3.5 g of 1-acetyl-6-chloro-2-indolinone, 3.4 g of 1-methylbenzimidazole-5-carboxylic acid, 6.1 g of TBTU, 2.9 g of HOBT-hydrate and 8.7 ml ethyldiisopropylamine are stirred in 100 ml DMF for 15 hours at ambient temperature. The mixture is combined with water and extracted with ethyl acetate, while the crude product is partially precipitated. The residue obtained by distilling off the solvent is taken up in dichloromethane and a little methanol and extracted with water. The organic phase is evaporated down, the residue stirred successively with ethyl acetate and diethyl ether, suction filtered and dried.

reactant | 1-acetyl-6-chloro-2-indolinone | 3.5 g | C(C)(=O)N1C(CC2=CC=C(C=C12)Cl)=O | C10H8ClNO2
reactant | 1-methylbenzimidazole-5-carboxylic acid | 3.4 g | CN1C=NC2=C1C=CC(=C2)C(=O)O | C9H8N2O2
reactant | TBTU | 6.1 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | ethyldiisopropylamine | 8.7 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 1-acetyl-6-chloro-3-[1-hydroxy-1-(1-methyl-5-benzimidazolyl)methylene]-2-indolinone | C(C)(=O)N1C(C(C2=CC=C(C=C12)Cl)=C(C1=CC2=C(N(C=N2)C)C=C1)O)=O | C19H14ClN3O3
